* Extracted by KLayout with SG13G2 LVS runset on : 16/01/2026 23:55

.SUBCKT or_custom VSS OUT A B VDD
X$1 VDD \$3 VSS OUT inv
X$3 \$3 A VDD VSS B nor_custom
.ENDS or_custom

.SUBCKT nor_custom OUT A VDD VSS B
M$1 VSS A OUT VSS sg13_lv_nmos L=0.13u W=0.15u AS=0.1005p AD=0.0555p PS=1.34u
+ PD=0.74u
M$2 OUT B VSS VSS sg13_lv_nmos L=0.13u W=0.15u AS=0.0555p AD=0.1005p PS=0.74u
+ PD=1.34u
M$3 VDD A \$10 VDD sg13_lv_pmos L=0.13u W=0.15u AS=0.1005p AD=0.0555p PS=1.34u
+ PD=0.74u
M$4 \$10 B OUT VDD sg13_lv_pmos L=0.13u W=0.15u AS=0.0555p AD=0.1005p PS=0.74u
+ PD=1.34u
.ENDS nor_custom

.SUBCKT inv VDD VIN VSS VOUT
M$1 VSS VIN VOUT VSS sg13_lv_nmos L=0.13u W=0.15u AS=0.1005p AD=0.1005p
+ PS=1.34u PD=1.34u
M$2 VDD VIN VOUT VDD sg13_lv_pmos L=0.13u W=0.15u AS=0.1005p AD=0.1005p
+ PS=1.34u PD=1.34u
.ENDS inv
